US07932394B2
(Step 1) Production of 2-fluoro-4-nitrobenzaldehyde
43.3 g of 2-fluoro-4-nitrobenzoic acid was dissolved in 600 ml of dimethylformamide, and 1,1′-carbodiimide was added to it, and stirred at room temperature for 2 hours. 11.1 g of sodium borohydride was added thereto, and further stirred for 30 minutes. Aqueous saturated ammonium chloride solution was added to it, 800 ml of water was added thereto, extracted with 1.2 liters of ethyl acetate, and the organic layer was washed with saturated saline water. The solvent was evaporated away under reduced pressure, the residue was again diluted with ethyl acetate, and the organic layer was washed with water and saturated saline water. This was dried with anhydrous sodium sulfate, and the solvent was evaporated away to obtain 32.7 g of a brown oil.

reactant | 2-fluoro-4-nitrobenzoic acid | 43.3 g | FC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO4
reactant | sodium borohydride | 11.1 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | 800 ml | O | H2O
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 2-fluoro-4-nitrobenzaldehyde | 32.7 g | FC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO3
